US05011849
In an analogous manner to that described in Example 1(B), 40 g (0.165 mol) of methyl 3-(benzyloxy)benzoate were heated at reflux for 8 hours with 33.4 g (0.0826 mol) of Lawesson reagent in xylene and thereafter chromatographed on silica gel, whereby there were obtained 21.7 g (51%) of O-methyl 3-(benzyloxy)thiobenzoate as a red-brown oil which gradually crystallized upon standing.

reactant | methyl 3-(benzyloxy)benzoate | 0.165 mol, 40 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=CC1 | C15H14O3
reactant | Lawesson reagent | 0.0826 mol, 33.4 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | O-methyl 3-(benzyloxy)thiobenzoate | 21.7 g, 51% | C(C1=CC=CC=C1)OC=1C=C(C(=S)OC)C=CC1 | C15H14O2S
